US07592365B2
0.115 g (0.362 mmol) of 4-(4-nitrophenyl)-2-(3-ethylureido)-1H-pyrrole-3-carboxamide is added at a temperature in the region of 25° C. to a suspension of 0.067 g (0.0636 mmol) of 10% palladium on carbon in 15 cm3 of methanol. After hydrogenating for 2.5 hours in an autoclave under 2 bar of hydrogen, at a temperature in the region of 25° C., the reaction mixture is filtered, the catalyst is rinsed with three times 5 cm3 of methanol and then the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give 0.056 g of 4-(4-aminophenyl)-2-(3-ethylureido)-1H-pyrrole-3-carboxamide, in the form of an orange solid; ES+: m/z=289 (MH+).

reactant | 4-(4-nitrophenyl)-2-(3-ethylureido)-1H-pyrrole-3-carboxamide | 0.362 mmol, 0.115 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=C(NC1)NC(=O)NCC)C(=O)N | C14H15N5O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.0636 mmol, 0.067 g | [Pd] | Pd
solvent | methanol | 15 cm3 | CO | CH4O
product | 4-(4-aminophenyl)-2-(3-ethylureido)-1H-pyrrole-3-carboxamide | 0.056 g | NC1=CC=C(C=C1)C=1C(=C(NC1)NC(=O)NCC)C(=O)N | C14H17N5O2
